Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Benadryl Decongestant
 
Attending: ___.
 
Chief Complaint:
Hematuria
 
Major Surgical or Invasive Procedure:
exchange of bilateral 10 ___ nephrostomy tubes ___

 
History of Present Illness:
Ms. ___ is a ___ w/ afib on coumadin, HTN, HLD, uterine CA, 
CKD w/ bilateral nephrostomy tubes p/w bloody nephrostomy tube 
output. She also has had fatigue for the past 2 days. There was 
first a small amount of blood in the bilateral nephrostomy bags 
yesterday, but last night the output was very dark, so she was 
brought her to the emergency department. She reports generalized 
weakness and fatigue for the past 2 days, but denies focal 
symptoms such as headache, sore throat, chest pain, shortness of 
breath, cough, abdominal pain, nausea, vomiting, back pain. She 
does have history of urinary tract infections. Her INR has been 
elevated recently, but family reports has been downtrending and 
was about 3 the last time it was checked.

Of note, she was hospitalized at ___ in ___ and 
treated for recurrent pyelonephritis associated with her 
nephrostomy tubes, ___, C. difficile infection, and 
supratherapeutic INR of 10. Her urine culture grew pan-sensitive 
Pseudomonas on ___, and she was transitioned to 
Ciprofloxacin PO with a planned 14-day course.

In the ED, initial VS were  0 97.8 76 124/41 18 99%ra
Exam significant for palor and bilateral nephrostomy tubes with 
dark blood.
Labs significant for WBC 12, Cr 3.9, and INR 5.7. UA with 182 
WBC, RBCs, large leuk, nitrite pos. Lactate 1.4. 
Imaging significant for CXR with hilar congestion and tiny 
pleural effusions. Renal ultrasound with no hydronephrosis on 
preliminary read.
Received 2g IV cefepime and 10mg IV vitamin K
Transfer VS were 97.8 61 135/65 16 98% RA.

On arrival to the floor, patient has no complaints. She notes 
chronic RLE pain and on questioning, notes that her RLE is 
chronically more swollen than the LLE. She denies fevers/chills. 
Does not know her home warfarin dose, but has assistance from 
her daughter and ___ clinic. 
 
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia,  
All other 10-system review negative in detail.  
 

 
Past Medical History:
1.  Diabetes mellitus type 2 with diabetic nephropathy
2.  Anemia
3.  Depression
4.  Hypertension
5.  Urinary incontinence
6.  Low back pain
7.  Osteoarthritis
8.  Endometrial Cancer- s/p Total abdominal hysterectomy with 
bilateral salpingo-oophorectomy in ___, c/b urinary 
incontinence, previously self cathing, then developed 
vesiculocutaneous fistulas and given bilateral nephrostomy 
tubes. 
9. CKD, stage 4 from DM/HTN. Had fistula placed ___, but has 
not matured. Surgical eval ___ recommended graft when reaches 
ESRD.
10. Hypercholesterolemia
11. Gait disturbance
12. Atrial fibrillation 

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.1 67 131/75 20 100%ra wt of 84.3 kg
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: umbilical hernia noted, soft. nondistended, +BS, 
nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly. 
BACK: bilateral nephrostomy tubes with dressings in place. R 
side with sanguinous drainage. Both tubes with ~50 cc dark red 
output. No surrounding erythema or tenderness to palpation.
EXTREMITIES: moving all extremities well. RLE> LLE edema. Both 
lower extremities equally warm, nontender. Venous stasis changes 
noted.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, fluent speech, aox3
SKIN: warm and well perfused 

DISCHARGE PHYSICAL EXAM:  
Afebrile, VSS
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclerae, pink conjunctivae, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: umbilical hernia noted, soft. nondistended, +BS, 
nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly. 
BACK: bilateral nephrostomy tubes with dressings in place 
draining yellow urine.
No surrounding erythema or tenderness to palpation.
EXTREMITIES: moving all extremities well. RLE> LLE edema. Both 
lower extremities equally warm, nontender. Venous stasis changes 
noted.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, fluent speech, aox3
SKIN: warm and well perfused 

 
Pertinent Results:
LABS ON ADMISSION
___ 10:50AM BLOOD WBC-12.0*# RBC-2.88* Hgb-8.7* Hct-26.2* 
MCV-91 MCH-30.3 MCHC-33.3 RDW-16.4* Plt ___
___ 10:50AM BLOOD Neuts-85.5* Lymphs-8.3* Monos-5.0 Eos-1.2 
Baso-0
___ 10:50AM BLOOD ___ PTT-53.9* ___
___ 10:50AM BLOOD Plt ___
___ 10:50AM BLOOD Glucose-152* UreaN-91* Creat-3.9*# Na-135 
K-6.8* Cl-101 HCO3-25 AnGap-16
___ 07:00AM BLOOD Calcium-8.6 Phos-5.1* Mg-1.8
___ 11:01AM BLOOD Lactate-1.4 K-4.2
___ 01:08PM BLOOD K-4.1
___ 11:00AM URINE Color-Red Appear-Cloudy Sp ___ TO 
REPORT, GROSSLY BLOODY SPECIMEN
___ 11:00AM URINE Blood-LG Nitrite-POS Protein->300 
Glucose-250 Ketone-40 Bilirub-LG Urobiln->8 pH-9.0* Leuks-LG
___ 11:00AM URINE RBC->182* WBC->182* Bacteri-MANY 
Yeast-NONE Epi-0
___ 11:00AM URINE WBC Clm-MOD

LABS ON DISCHARGE
___ 06:40AM BLOOD WBC-14.6* RBC-2.86* Hgb-8.4* Hct-26.4* 
MCV-93 MCH-29.3 MCHC-31.7 RDW-17.0* Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD ___ PTT-32.9 ___
___ 06:40AM BLOOD Glucose-139* UreaN-100* Creat-3.9* Na-141 
K-4.4 Cl-102 HCO3-23 AnGap-20
___ 06:40AM BLOOD Calcium-9.3 Phos-6.2* Mg-2.3

MICRO
___ 11:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ 10:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

STUDIES

CXR ___:  
1. Cardiomegaly and hilar congestion. 
2. Tiny bilateral pleural effusions. 
3. Calcified mitral annulus. 

Renal ultrasound ___: The right kidney measures 9.8 cm. A simple 
cyst is demonstrated in the right midpole. No hydronephrosis. 
There is increased echogenicity of the renal cortex suggesting 
chronic medical renal disease. The partially imaged nephrostomy 
catheter is demonstrated in the central collecting system. Trace 
perinephric fluid is demonstrated. 
The left kidney measures 9.3 cm. No hydronephrosis. There is 
increased 
echogenicity of the renal cortex, suggesting chronic medical 
renal disease. The nephrostomy catheter is not seen. 
The bladder is decompressed. 
IMPRESSION:  
As above. 

URIN CATH REPLC Study Date of ___ 
FINDINGS:  
1. Existing bilateral 10 ___ nephrostomy tubes.  The right 
nephrostomy tube was noted to be displaced and nearly dislodged 
from the right kidney. The left nephrostomy tube was in 
appropriate position in the renal pelvis. 
2. Successful placement of new, bilateral 10 ___ nephrostomy 
tubes. 
IMPRESSION:  
Successful exchange of bilateral 10 ___ nephrostomy tubes. 
 
Brief Hospital Course:
Hospital course: Ms. ___ is a ___ w/ afib on coumadin, HTN, 
HLD, uterine CA, CKD w/ bilateral nephrostomy tubes p/w bloody 
nephrostomy tube output, found to have UTI, ___, 
supratherapeutic INR, and LGIB. UTI was treated with initially 
with cefepime, then with zosyn, transitioned to ciprofloxacin on 
discharge. ___ presented with a Cr of 3.9 from prior value of 
2.8. LGIB characterized by one loose brown BM accompanied by 
~30cc BRBPR; thought to be due to previously noted colonic 
angioectasias in the setting of supratherapeutic INR; this did 
not recur or require pRBC transfusion. 

Active issues:
#UTI/hematuria: UA with >182 WBC, RBCs, large leuk, nitrite pos, 
suggestive of UTI. Hematuria may be ___ UTI, supratherapeutic 
INR, or less likely urologic malignancy.
UTI was treated with initially with cefepime, then with zosyn, 
transitioned to ciprofloxacin on discharge. Urine culture with 
mixed flora. Supratherapeutic INR treated as below. Recommend 
outpatient follow up to assess for resolution of hematuria once 
infection is resolved. 

#LGIB: On ___, pt had loose brown BM accompanied by ~30cc BRBPR; 
thought to be ___ previously noted colonic angioectasias in the 
setting of supratherapeutic INR. This did not recur; she was 
hemodynamically stable; and Hgb was stable on recheck. 
Supratherapeutic INR treated as below.

#Leukocytosis: Pt with known UTI as above. Also with a hx of 
C.diff colitis on a prior admission. She had one loose bowel 
movement in the hospital, which did not recur and she attributed 
this to lactose intolerance. As it did not recur, a sample could 
not be sent for evaluation, but consider C.diff toxin assay if 
diarrhea recurs

#Anemia: Recent baseline Hb appears to be ___. Hbg is 8.7 on 
admission. This may be secondary to worsening renal function, 
bleeding from her nephrostomy, and LGIB as above.

#Supratherpeutic INR: Patient presenting with INR 5.7 and 
hematuria as above. She was treated with IV vitamin K in the ED. 
Warfarin was initially held, and a smaller dose of 1 mg was 
resumed prior to discharge, with plans for ___ 
clinic follow up 

___: Cr was 2.8 in ___ however, ranged up to 4.6 during 
her ___ admission. On admission, Cr of 3.9 above recent 
baseline. Likely prerenal ___ infection and concurrent volume 
depletion. Renal ultrasound reassuring against hydronephrosis; 
however, ___ evaluated her PCNs in the ED, and noted that the 
right PCN was not draining and noted bloody drainage around skin 
site. The drain was flushed, and 3 way adapters added to both 
drains. She then underwent ___ guided PCN exchange. By the time 
of discharge, Cr was 3.9. Furosemide was held with plans to 
follow up in clinic.

#Atrial fibrillation: Rate controlled and anticoagulated. 
Continued home metoprolol; managed warfarin as above

Chronic issues:
#Depression: Continued home Citalopram 10mg, BusPIRone 15 mg PO 
BID 

#Hx of gout: Continued home allopurinol 

#HTN: Well controlled

Transitional issues:
- She was discharged on ciprofloxacin to complete a 14-day 
course for UTI
- Warfarin dose reduced to 1mg daily at discharge (on cipro). 
INR to be checked on ___
- Lasix held at discharge given ___ restart pending outpatient 
reassessment of electrolytes and volume status
- She was discharged on her home metoprolol succinate with BID 
dosing. Would consider once daily dosing for this medication 
unless otherwise contraindicated
- The patient had diarrhea prior to discharge that self-resolved 
before sample could be sent for c. diff. Should diarrhea recur, 
would send off stool studies
- Leukocytosis at discharge (WBC 14.6). Please recheck at ___ 
office visit on ___ to confirm downtrending
- Discharge Cr: 3.9
- CODE STATUS: Patient reported preference for DNR/Ok to 
intubate. Would benefit from further goals of care discussions 
with her outpatient providers

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Januvia (sitaGLIPtin) 25 mg oral daily 
3. Metoprolol Succinate XL 25 mg PO BID 
4. Gabapentin 100 mg PO BID 
5. Warfarin 2.5 mg PO 3X/WEEK (___) 
6. Allopurinol ___ mg PO EVERY 3 DAYS 
7. BusPIRone 15 mg PO BID 
8. Acetaminophen 500 mg PO Q4H:PRN pain 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
10. Warfarin 1.25 mg PO 4X/WEEK (___) 
11. Furosemide 160 mg PO BID 
12. Multivitamins 1 TAB PO DAILY 
13. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q4H:PRN pain 
2. Allopurinol ___ mg PO EVERY 3 DAYS 
3. BusPIRone 15 mg PO BID 
4. Citalopram 20 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Januvia (sitaGLIPtin) 25 mg oral daily 
8. Loratadine 10 mg PO EVERY OTHER DAY 
9. Metoprolol Succinate XL 25 mg PO BID 
10. Ciprofloxacin HCl 250 mg PO Q24H Duration: 10 Days 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0
11. Warfarin 1 mg PO DAILY16 
This is a lower dose than usual since you were bleeding. Your 
primary care doctor can reassess. 
RX *warfarin 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. Gabapentin 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Urinary tract infection
Supratherapeutic INR
Acute kidney injury
Lower GI bleeding

Secondary diagnoses:
Atrial fibrillation 
Chronic kidney disease
Diabetes mellitus, type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you at ___. You were admitted 
with bloody output from your nephrostomy tubes, and found to 
have a urinary tract infection, an elevated INR (meaning that 
your warfarin level was too high), and a bloody bowel movement.

Because your warfarin contributed to episodes of bleeding in the 
tubes and in the stool, the dose was reduced on discharge. You 
were also started on ciprofloxacin, an antibiotic for urinary 
tract infection. 

Please take all your medications as listed and follow up with 
your doctors and the ___ clinic. You should have 
your INR checked on ___.

We wish you all the best!
Your ___ Medicine Team
 
Followup Instructions:
___